US07666879B2
A. [4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-thiazol-2-ylmethyl]-carbamic acid tert-butyl ester
To a solution of (4-trimethylstannyl-thiazol-2-ylmethyl)-carbamic acid tert-butyl ester (0.480 g, 1.27 mmol, 1.0 eq.) [prepared as in the PCT application WO2004046101, Jun. 3, 2004, filed Nov. 10, 2003] in anhydrous dioxane (4 mL), add 7-chloro-3-iodo-imidazo[1,2-a]pyridine (0.354 g, 1.27 mmol, 1.0 eq.) and LiCl (0.162 g, 3.0 eq.). Add Pd(PPh3)4 (0.102 g, 0.07 eq.). Deoxygenate the reaction mixture and fill with nitrogen. Stir at 90° C. over night, cool, then dilute with 5% MeOH/DCM (100 mL), wash with saturated aqueous saturated sodium chloride (2×20 mL), water (2×20 mL), dry, filter, and concentrate. Chromatograph on silica gel first with a 50%-100% EtOAc/DCM gradient then a 5% MeOH/DCM gradient to afford 0.180 g of the title compound, which is used in the next step without further purification: MS(ES), m/z 365 (M+1).

reactant | (4-trimethylstannyl-thiazol-2-ylmethyl)-carbamic acid tert-butyl ester | 1.27 mmol, 0.480 g, 1.0 eq. | C(C)(C)(C)OC(NCC=1SC=C(N1)[Sn](C)(C)C)=O
reactant | 7-chloro-3-iodo-imidazo[1,2-a]pyridine | 1.27 mmol, 0.354 g, 1.0 eq. | ClC1=CC=2N(C=C1)C(=CN2)I | C7H4ClIN2
reactant | LiCl | 0.162 g, 3.0 eq. | [Li+].[Cl-]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.102 g, 0.07 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-thiazol-2-ylmethyl]-carbamic acid tert-butyl ester | 0.180 g | C(C)(C)(C)OC(NCC=1SC=C(N1)C1=CN=C2N1C=CC(=C2)Cl)=O | C16H17ClN4O2S
